US07994339B2
(3-2) Production of 4-(1-cyclopropyltetrazol-5-yl)-2-methylnitrobenzene
6.3 g (30 mmol) of phosphorus pentachloride was added to a mixture of 40 ml of toluene and 4 ml of dioxane containing 4.7 g (21 mmol) of N-cyclopropyl-3-methyl-4-nitrobenzamide and the mixture was heated to reflux for three hours. The reaction mixture was concentrated under reduced pressure, then dissolved in 30 ml of DMF and slowly added dropwise to a DMF solution containing 2.8 g (43 mmol) of sodium azide. The reaction mixture was stirred for five hours, then poured into water and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was filtered and washed with ether to obtain 3.7 g of the desired compound.

reactant | phosphorus pentachloride | 30 mmol, 6.3 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | dioxane | 21 mmol, 4 ml, 4.7 g | O1CCOCC1 | C4H8O2
reactant | N-cyclopropyl-3-methyl-4-nitrobenzamide | C1(CC1)NC(C1=CC(=C(C=C1)[N+](=O)[O-])C)=O | C11H12N2O3
reactant | sodium azide | 43 mmol, 2.8 g | [N-]=[N+]=[N-].[Na+]
solvent | water | O | H2O
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(1-cyclopropyltetrazol-5-yl)-2-methylnitrobenzene | 3.7 g, Yield: 71% | C1(CC1)N1N=NN=C1C1=CC(=C(C=C1)[N+](=O)[O-])C | C11H11N5O2
